US04547514
3-(3,4-Dichlorophenoxy)-1-pyrrolidinecarbonyl Chloride
To a stirred solution of 275 ml of 2 molar phosgene (0.55 mole) in benzene under nitrogen gas was added dropwise a solution of 0.5 mole of 1-benzyl-3-(3,4-dichlorophenoxy)pyrrolidine in 200 ml of dry benzene. The reaction mixture was stirred an additional 0.5 hr, then was filtered to remove 10 g of the starting pyrrolidine compound as the hydrochloric acid salt. The filtrate was concentrated under reduced pressure to give an oil. The oil was triturated four times in succession with 200 ml each of 30/60 petroleum ether which removed most of the benzyl chloride by-product. The combined petroleum ether when cooled gave 6.5 g of white crystal product which was separated by filtration. The oil residue, after removing excess petroleum ether under vacuum, crystallized. The crystals were separated by filtration and washed with petroleum ether to give 93 g of tan-colored material. Further work-up of the last petroleum ether filtrate gave 17 g additional crude product. Combined yield of crude tan product was 116.5 g (70%), m.p. 79°-84° C. A portion of the crude was recrystallized from 30/60 petroleum ether to give white crystalline product, m.p. 79°-84° C.

reactant | phosgene | 0.55 mole, 2 molar, 275 ml | C(=O)(Cl)Cl | CCl2O
reactant | 1-benzyl-3-(3,4-dichlorophenoxy)pyrrolidine | 0.5 mole | C(C1=CC=CC=C1)N1CC(CC1)OC1=CC(=C(C=C1)Cl)Cl | C17H17Cl2NO
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | 3-(3,4-Dichlorophenoxy)-1-pyrrolidinecarbonyl Chloride | 6.5 g | ClC=1C=C(OC2CN(CC2)C(=O)Cl)C=CC1Cl | C11H10Cl3NO2
